US06034127
a) 3-[(2-Chlorophenoxy)methyl]phenol
At 0° C. to 616 mg (2.35 mmol) of triphenylphosphine and 400 μL (3.84 mmol) of 2-chlorophenol in 20 mL of methylene chloride was added 370 mL (2.35 mmol) of diethyl azodicarboxylate followed by dropwise addition of a solution of 233 mg (1.9 mmol) 3-hydroxybenzyl alcohol in 2 mL of tetrahydrofaran. The reaction mixture was stirred at 0° C. to ambient temperature for 1 h. The reaction mixture was quenched with water, extracted into diethyl ether, dried (MgSO4), and purified by flash chromatography (methylene chloride/hexane (2:1 to 4:1)) to provided 227 mg (44% yield) of the title compound as a colorless oil. 1H-NMR (300 MHz, CDCl3) δ 7.39 (dd, 1H, J=1.6, 7.8 Hz), 7.25 (t, 1H), 7.15-7.21 (m, 1H), 6.88-7.01 (m, 4H), 6.79 (dd, 1 H, J=2.5, 8.1 Hz), 5.12 (s, 2H), and 4.97 (s, 1H).

reactant | triphenylphosphine | 2.35 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chlorophenol | 3.84 mmol, 400 μL | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | diethyl azodicarboxylate | 2.35 mmol, 370 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-hydroxybenzyl alcohol | 1.9 mmol, 233 mg | OC=1C=C(CO)C=CC1 | C7H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2-Chlorophenoxy)methyl]phenol | 227 mg, 44% yield | ClC1=C(OCC=2C=C(C=CC2)O)C=CC=C1 | C13H11ClO2
